US04472305
Condensation of BocPro-Phe-Phe-LDap(Boc)-LeuNHNH2 (607 mg.) and HMetNH2 (150 mg.) by the acyl azide method (Yajima et al., Chem. Pharm. Bull., vol. 19, p. 1900, 1971) gave BocPro-Phe-Phe-LDap(Boc)-Leu-MetNH2 in 67% yield. De-t-butoxycarbonylation of BocPro-Phe-Phe-LDap(Boc)-Leu-MetNH2 (430 mg.) using hydrogen chloride in acetic acid gave HPro-Phe-Phe-LDap-Leu-MetNH2, which was isolated as the amorphous white solid phosphate (1:2) salt dihydrate in 95% yield.

reactant | BocPro-Phe-Phe-LDap(Boc)-Leu-MetNH2 | 430 mg | N1([C@H](C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N[C@@H](CNC(=O)OC(C)(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N)CCC1)C(=O)OC(C)(C)C | C47H70N8O10S
reactant | hydrogen chloride | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | HPro-Phe-Phe-LDap-Leu-MetNH2 | N1[C@H](C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N[C@@H](CN)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N)CCCC1 | C38H56N8O6S
